US07105671B2
A solution of 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester (0.519 g, 1.65 mmol) in methanol (7 mL) was treated with a 0.8M aqueous lithium hydroxide solution (40.7 mL, 33.0 mmol). The reaction mixture was stirred at 25° C. for 1.5 h and then concentrated in vacuo to remove methanol. The remaining aqueous layer was acidified to pH=2 with a 10% aqueous hydrochloric acid solution and then extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford pure 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid (0.495 g, 95.8%) as a light yellow oil that crystallized upon standing: mp 93–96° C.; [α]23589=−23.70° (c=0.46, chloroform); EI-HRMS m/e calcd for C14H17ClO3S (M+) 300.0587, found 300.0579.

reactant | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester | 1.65 mmol, 0.519 g | COC(C(C[C@@H]1OCCC1)C1=CC(=C(C=C1)SC)Cl)=O | C15H19ClO3S
reactant | lithium hydroxide | 33.0 mmol, 0.8M, 40.7 mL | [OH-].[Li+]
solvent | methanol | 7 mL | CO | CH4O
product | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid | 0.495 g, 95.8% | ClC=1C=C(C=CC1SC)C(C(=O)O)C[C@@H]1OCCC1 | C14H17ClO3S
